Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Transferred from OSH, intubated following seizures x 2
 
Major Surgical or Invasive Procedure:
Endotracheal intubation 

 
History of Present Illness:
History is obtained from patient, patient's family and prior
notes in longitudinal medical record. 

HPI:  ___ yo right handed man with history of chronic back pain
and ?syncopal events presents with first time seizure today
witnessed at home by his wife and daughter.  

Earlier today at 10:30am he reported to his wife that he reached
down for something, stood up suddenly and hist his forehead on
the edge of cabinets suffering a small laceration.  There was no
loss of consciousness.  He reported to his family that he was
feeling very flushed this morning.

At 12:20pm, his wife and daughter left the room where he was
sitting in a recliner chair.  They returned because they heard
banging and found him having a generalized seizure with tonic
stiffening.  His eyes remained closed.  There was no cyanosis. 
He was making gurggling sounds and had urinary incontinence. 
They called an ambulance and the seizure selfresolved before
their arrival estimated to be less than 5 minutes.  He was
post-ictally not responsive and would not make eye contact or
respond.  As the ambulance was leaving the house within 
10minutes
of the last seizure, he had a second generalized seizure which
resolved prior to arrival at ___.  He was
considered in status because of no return to his baseline in
between the seizures or after the seizure and was givn Ativan
2mg.  He appeared to not be protecting his airway and was
intubated after Etomidate, Succylycholine, and fentanyl.  After
he was intubated he was give 1 gram of fosphenytoin.  He 
required
several small boluses of proprofol.

On arrival he had a low bicarbonate of 7.  His initial gas 
showed
a pH of 7.23 pCo2 40, p02 104 HCo3 16.8 amd Base excess of 
-10.2.
He did not have significant white count and his urine and chest
xray did not show signs of infection.  He was transferred to
___ for further neurological care.

ROS:  Unfortunately, ___ is unable to answer questions for a
review of symptoms.  Today, he did not report to his family and
concerns for infection with fever, UTI symptoms, cough,
rhinnorhea.  He did not tell them he had a headache.  He had 
been
having significant back pain over the last two days which he
thought was due to the change in weather and also the fact he 
had
been working on the generator preparing for the hurricane which
could have aggrevated his back pain.  His wife thinks that he 
may
have taken many Tramadol pills today.

In the past, he has never complained of SOB, CP, palpitations 
but
he is known by his family as some one who doesn't complain or
report medical complaints.

His grandson was sick with strep throat who he had contact with
this weekend but ___ himself was not complaining of a
sorethroat or fever.

 
Past Medical History:
1) Chronic Back pain- Patient has been mostly followed by a
___'s ___ physician for this problem.  ___ years ago 
he
feel while at work on the ___ and fell down 14 feet injuring
his back.  His family wasn't sure the total of extent of his
injury but think he had L4/L5 vertebral disc protrusion and
stenosis of the canal.  His images are at ___. 
He had been prescribed many medications as detailed below but 
his
family thinks that he does not follow them as prescribed and 
that
he has been known to take many extra pills.

2) Heel Fracture- sustained during above mentioned fall

3) ?Syncope-  He has two known syncopal events.  One was ___
years ago where he reported feeling lightheaded and fell forward
and hit his head suffereing a laceration of his forehead.  The
second was ___ year ago where he fainted while in the bathroom. 
His wife reports that this weekend he told her that he had 
having
nearsyncopal events about once a month but didn't tell her more
detail regarding that.  He has not followed with a primary care
doctor and has nto had any investigations regarding this.

4) Hemmorhoids-  He has been followed by a surgeon who has
recommended surgical intervention for which ___ is planning on
holding off on.

 
Social History:
___
Family History:
FH: He was one of 6 brother and several of them have prostate
cancer.  Both of his parents lived to their ___.  His 
mother
had a stroke in her ___.  There is no family history of seizure.

 
Physical Exam:
Physical Examination on Admission: 
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. There is a small scabbed head lac- 1cm long
Cor: RRR, nl S1, S2. No m/r/g appreciated.
Chest: Clear, breath sounds equal bilaterally.
Abdomen: Soft, NTND.
Ext: Warm, no edema. 
Skin: mild erythema on chest.

Neuro:
intubated, off propofol for 15 minutes, off paralyzing agents 
for
several hours.  Patient was able to respond to vigorous stimuli, 

He can open his eyes and keep them open but is not tracking. 
Pupils equal 2mm pinpoint and minimally reactive bilaterally. 
Does not blink to threat bilaterally.  Face appears symmetric. 
He does not follow commands.  He is moving all his extremities
spontaneously but left upper extremity is not as vigorous.  He 
is
able to flex knees.  Reflexes were 2+ throughout.  Could not 
test
babinski because of withdrawal.  He is localizing to pain in his
lower extremitites but not reliably in upper extremities.  

 
Pertinent Results:
Labs on Admission
___ 06:25PM BLOOD WBC-18.4* RBC-4.34* Hgb-13.9* Hct-37.8* 
MCV-87 MCH-32.0 MCHC-36.7* RDW-13.0 Plt ___
___ 06:25PM BLOOD ___ PTT-24.9 ___
___ 06:25PM BLOOD ___ 06:25PM BLOOD Glucose-114* UreaN-20 Creat-1.3* Na-128* 
K-4.5 Cl-98 HCO3-20* AnGap-15
___ 06:25PM BLOOD ALT-30 AST-42* AlkPhos-74 TotBili-0.5
___ 02:12AM BLOOD Albumin-3.4* Calcium-7.8* Phos-3.9 Mg-2.1 
Iron-22*
___ 02:12AM BLOOD TSH-0.86
___ 02:36AM BLOOD Phenyto-10.1
___ 06:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:21PM BLOOD Type-ART Rates-/10 Tidal V-919 PEEP-5 
FiO2-100 pO2-471* pCO2-35 pH-7.37 calTCO2-21 Base XS--3 
AADO2-208 REQ O2-43 Intubat-
___ 06:25PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 08:58AM URINE Eos-NEGATIVE  
___ 08:58AM URINE Hours-RANDOM Creat-52 Na-54 K-23 Cl-60
___ 06:25PM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

Urine, Blood Cultures: negative

Reports: 
EEG (While intubated and sedated)
BACKGROUND: Brief periods of low to moderate voltage 
bi-occipital 10 Hz 
rhythms were seen representing full wakefulness with lower 
voltage 
anterior beta and theta with at times excessive amounts of 
precentral 
beta. The anterior-posterior voltage gradient was preserved. No 
focal, 
lateralized or discharging abnormalities were noted. 
HYPERVENTILATION: Not performed. 
INTERMITTENT PHOTIC STIMULATION: Not performed. 
SLEEP: The patient transitioned on multiple occasions to a 
drowsy state 
and on rare occasions with symmetrical spindling to stage II 
sleep. In 
fact, much of the record represented drowsiness, with brief 
periods of 
wakefulness and rapid returns to stage I sleep. 
CARDIAC MONITOR: No arrythmias noted. 
IMPRESSION: Abnormal EEG, because of the patient's inability to 
maintain 
full wakefulness. While the brief waking rhythms were seen to be 
normal 
for age, the state instability would suggest a mild early 
diffuse 
encephalopathy. No evidence for a discharging abnormality or 
clear 
focality was seen. 

MRI: Unremarkable MRI examination of the brain.

Renal U/s: Normal renal ultrasound. No evidence of mass lesion, 
hydronephrosis, or cortical thinning. 

 
Brief Hospital Course:
Mr. ___ was transferred to the ___ from an OSH intubated 
and s/p fosphenytoin load for two generalized convulsions noted 
by his family and EMS personnel. He was intubated for airway 
protection, and had already received some IV benzodiazepine. Per 
report from the family, he had been experiencing increased back 
pain lately and had likely been taking more than his daily 
allotted amount of tramadol. His admission physical examination 
was limited by sedation, but his cranial nerve examination was 
unremarkable and he was noted to be moving all four extremities. 
He remained intubated over the first night he was in our ICU and 
continued to receive IV dilantin at a rate of 100mg TID. He was 
switched over to CPAP spontaneous breathing, and after having 
passed his SBT, he was successfully extubated to room air. 
Following his extubation, he was initially confused, sleepy and 
partially disoriented. This all later improved, and prior to 
discharge, his neurological examination was positive for some 
stable old right sided ptosis (without miosis), normal gait and 
coordination and full strength and sensation throughout. He was 
independent and ambulatory without support. 

PROBLEMS
Seizures: While he was initially started on dilantin for his two 
seizures, he had an extensive work up to rule out secondary 
causes of symptomatic seizures. His EEG showed no epileptiform 
activity, and his MRI was normal. He also had an extensive 
metabolic work up (see below) which revealed no obvious source 
of infection, metabolic abnormality or electrolyte derangements. 
His tox screens were also unremarkable. Ultimately, on obtaining 
a further history from the patient and his family, he reported 
that he had been taking his tramadol inappropriately over the 
past few months. His monthly prescription of tramadol would 
routinely run out of pills prior to the end of the month. At 
times, when he would run out of his 300mg ultram ER daily, he 
would instead take 6 pills of 50mg tramadol (short acting). This 
may or may not have occurred on the day of the seizure, the 
patient's family cannot confirm this. I spoke with his 
physiatrist directly, and conveyed our thoughts about tramadol 
being a cause for lowered seizure threshold. He is to be seen by 
his physiatrist in one week (see below) where they will together 
come up with an alternative pain regimen. He was instructed to 
continue his other home medications of flexeril and lyrica. 

Renal Failure: On admission, his admission creatinine of 1.3 
rose to 1.5 and then subsequently to 1.8 in spite of continuous 
IV fluids. Urine electrolytes revealed a prerenal impairment 
(FeNA of 1.1%) and his renal ultrasound was unremarkable. His Cr 
came back down to 1.6, and then subsequently came back down to 
1.1 on discharge. Throughout his stay, he was never oliguric and 
his UAs were all unremarkable. 

Anemia: At the OSH, his Hb was 15, and was measured to be ~13 on 
admission. This worsened to 11 following IV rehydration 
(dilutional) and remained at ~11g/dL. Iron studies revealed 
evidence for iron deficiency. A digital rectal examination was 
performed, and stool was grossly guaiac negative. He reported a 
negative colonoscopy ___ years prior. Please consider iron 
supplementation as an outpatient. The etiology may be related to 
indolent hemorrhoidal bleeding, although the patient does not 
report overt bleeding in his stools. 

Leukocytosis: As high as 18K on admission, likely ___ seizure. 
This improved down to 11K on discharge. He was without signs of 
infection or fever throughout his stay. 

On discharge, the patient and his family was educated about 
findings related to his MRI, EEG and iron studies. They were 
instructed to follow up in our own neurology clinic at the ___ 
(see below). They verbalized understanding and all of their 
questions were answered. 
 
Medications on Admission:
Ultram ER 300mg QD
Lyrica 50mg QD
Tramadol 50mg BID PRN 
Flexeril (unknown dose) QHS
Vitamin E
multivitamin
herbal supplement Circuleg (PRN hemorrhoid?)
 
Discharge Medications:
1. Lyrica 50 mg Capsule Sig: One (1) Capsule PO once a day. 
Capsule(s) 
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for back pain/discomfort.  
3. hydrocodone-acetaminophen ___ mg Capsule Sig: One (1) 
Capsule PO every six (6) hours as needed for pain for 6 days.
Disp:*10 Capsule(s)* Refills:*0*
4. Flexeril  Oral
5. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures 
Chronic Lower Back Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at the Neurology ICU and Wards of the ___ 
___ for two generalized convulsions 
or seizures. You briefly received sedation following your 
seizures while you were intubated (with a breathing tube). We 
believe that your seizures were likely caused as a side effect 
of tramadol use, which can lower the threshold for seizures. 
During your hospitalization, we noticed that your kidney 
function had worsened slightly, but this improved with IV 
hydration. 
- DO NOT TAKE tramadol in the future. 
- Our decision was to NOT continue any antiepileptic medications 
at this time. Should you or your family notice another seizure, 
please contact our clinic below to set up a quicker follow up 
appointment. 
- For your pain, I have prescribed a few pills of 
hydrocodone/acetaminophen. Use them only on days when your pain 
is significantly worse than usual. 
- While you are not taking tramadol, consider taking one tylenol 
tablet every 8 hours while awake. Do not consume more than 4g of 
tylenol daily. 
- Continue to take your flexeril (as needed) and lyrica daily as 
augmenting pain agents. 
- It is important that you follow up with your appointments as 
listed below, including follow up with us in the Neurology 
Department of the ___. 
- We noticed that your iron levels are low. This may be as a 
consequence of sources of bleeding from your gastrointestinal 
tract such as polyps, hemorrhoids or a tumor. It is important 
that your PCP set up an appointment for a colonoscopy as an 
outpatient. 
 
Followup Instructions:
___